US06323223B1
To a suspension of 4-piperidone hydrochloride (3.52 g, 22.9 mmol) in ethanol (40 ml) was added triethylamine (10.8 ml, 91.6 mmol), followed by the addition of 3,4-dichlorobenzyl bromide (5.0 g, 20.8 mmol) and the reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo and the residue was partitioned between water and ethyl acetate. The ethyl acetate layer was separated, washed with brine, dried over magnesium sulfate and concentrated in vacuo. Column chromatography with 25% ethyl acetate and 25% dichloromethane in hexanes gave 1-(3,4-dichlorobenzyl)-4-piperidone (4.4 g) as a colorless oil.

reactant | 4-piperidone hydrochloride | 22.9 mmol, 3.52 g | Cl.N1CCC(CC1)=O
reactant | triethylamine | 91.6 mmol, 10.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzyl bromide | 20.8 mmol, 5.0 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(3,4-dichlorobenzyl)-4-piperidone | 4.4 g | ClC=1C=C(CN2CCC(CC2)=O)C=CC1Cl | C12H13Cl2NO
